US04937380
A glass liner for a 70 mL stainless steel high pressure reactor was equipped with a magnetic stir bar and charged under an argon atmosphere with 15 mL of tetrahydrofuran, 0.34 mmol of hexadecane (internal standard,) 0.9 mmol of Mn2 (CO)10, and 69 mmol of n-propylamine. The glass liner was placed in the high pressure reactor and the reactor was sealed. The reactor was cooled to -78° C., and 4.0 mL of liquid 1,3-butadiene was condensed into the reactor. The reactor was pressurized to 1800 psig with CO at -78° C. and allowed to warm to room temperature. The pressure at room temperature was 2800 psig. The reactor was heated to 110° C. and the contents were stirred at this temperature for 26 hours. The reactor was then cooled to -78° C. and the pressure was released. The liquid contents of the reactor were analyzed by gas chromatography, and the major product was isolated by preparative gas chromatography and analyzed by 1H nmr spectroscopy. The product N-n-propyl-3-pentenamide, was produced in approximately 25 percent yield, the conversion of butadiene was 81 percent.

reactant | hexadecane | 0.34 mmol | CCCCCCCCCCCCCCCC | C16H34
reactant | n-propylamine | 69 mmol | C(CC)N | C3H9N
reactant | 1,3-butadiene | C=CC=C | C4H6
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | Mn2 (CO)10 | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mn].[Mn]
product | N-n-propyl-3-pentenamide | approximately 25 percent yield | C(CC)NC(CC=CC)=O | C8H15NO
